US07842694B2
3-({(1S)-1-[(Methyloxy)methyl]propyl}oxy)-5-[(phenylmethyl)oxy]benzoic acid
To a solution of methyl 3-({(1S)-1-[(methyloxy)methyl]propyl}oxy)-5-[(phenylmethyl)oxy]benzoate (6.85 g, 20 mmol) in 3:1 THF:methanol (100 mL) was added 1N lithium hydroxide solution in water (40 mL, 40 mmol), then a further 100 mL water was added portionwise at intervals while the resulting mixture was stirred for 2 hours. The organic solvents were removed by evaporation and the cloudy solution filtered. The pH of the filtrate was adjusted to 3 by the addition of 2 M hydrochloric acid. This was extracted with ethyl acetate (3×70 mL). The combined organic extracts were dried (MgSO4) and evaporated to afford the title compound as a colourless oil which solidified (6.36 g).

reactant | methyl 3-({(1S)-1-[(methyloxy)methyl]propyl}oxy)-5-[(phenylmethyl)oxy]benzoate | 20 mmol, 6.85 g | COC[C@H](CC)OC=1C=C(C(=O)OC)C=C(C1)OCC1=CC=CC=C1 | C20H24O5
reactant | THF | C1CCOC1 | C4H8O
reactant | lithium hydroxide | 1N | [OH-].[Li+]
solvent | water | 100 mL | O | H2O
solvent | methanol | 100 mL | CO | CH4O
solvent | water | 40 mmol, 40 mL | O | H2O
product | 3-({(1S)-1-[(Methyloxy)methyl]propyl}oxy)-5-[(phenylmethyl)oxy]benzoic acid | COC[C@H](CC)OC=1C=C(C(=O)O)C=C(C1)OCC1=CC=CC=C1 | C19H22O5
